US04738975
5-Methoxy-2-[[3-methoxy-4-(2,2,2-trifluoroethoxy)pyrid-2-yl]methylthio]benzimidazole (989 mg) was dissolved in chloroform (30 ml), to which a solution of m-chloroperbenzoic acid (503 mg) in chloroform (8 ml) was added dropwise under ice-cooling over 5 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and then a saturated saline, and dried with anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by column chromatography, to give 5-methoxy-2-[[3-methoxy-4-(2,2,2-trifluoroethoxy)pyrid-2-yl)methylsulfinyl]benzimidazole (712 mg) as a light brownish yellow powder. m.p. 36°-46° C.

reactant | 5-Methoxy-2-[[3-methoxy-4-(2,2,2-trifluoroethoxy)pyrid-2-yl]methylthio]benzimidazole | 989 mg | COC1=CC2=C(N=C(N2)SCC2=NC=CC(=C2OC)OCC(F)(F)F)C=C1 | C17H16F3N3O3S
reactant | m-chloroperbenzoic acid | 503 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-methoxy-2-[[3-methoxy-4-(2,2,2-trifluoroethoxy)pyrid-2-yl)methylsulfinyl]benzimidazole | 712 mg | COC1=CC2=C(N=C(N2)S(=O)CC2=NC=CC(=C2OC)OCC(F)(F)F)C=C1 | C17H16F3N3O4S
